US04317820
4.4 g of diethyl ethoxymethylenemalonate was added to 3 g of 4-chloroindoline and the mixture was heated on an oil bath at 110° to 120° C. during which time liberation of ethanol was observed. 20 g of polyphosphoric acid prepared from 10 g of phosphoric acid and 10 g of phosphorus pentoxide was added thereto and the mixture was heated on an oil bath at 130° to 140° C. for 40 minutes. After completion of the reaction, the mixture was allowed to cool to 60° C., poured into water and rendered neutral with a 10% aqueous sodium hydroxide solution. The crystals precipitated were collected by filtration and washed with water. The crystals thustreated were mixed with 50 ml of a 10% aqueous sodium hydroxide solution and the mixture was heat-refluxed on an oil bath for 1 hour. As the reaction proceeded the mixture changed to a uniform solution. The solution was treated with activated carbon while hot followed by filtration. The filtrate was rendered acidic with concentrated hydrochloric acid to obtain 3.5 g of 9-chloro-6-oxo-1,2-dihydro-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid. Recrystallization of the product from dimethylformamide gave 3.5 g of white needles having a melting point of 307.5° C. (decomposition).

reactant | diethyl ethoxymethylenemalonate | 4.4 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | 4-chloroindoline | 3 g | ClC1=C2CCNC2=CC=C1 | C8H8ClN
reactant | phosphoric acid | 10 g | P(O)(O)(O)=O | H3O4P
reactant | phosphorus pentoxide | 10 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 9-chloro-6-oxo-1,2-dihydro-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid | 3.5 g | ClC1=CC=C2C(C(=CN3C2=C1CC3)C(=O)O)=O | C12H8ClNO3
